US07528173B2
Following a procedure reported by Hoffmann, M., Synthesis (1986), 557A, a solution of (R)-1-(benzyloxycarbonyl)amino-2-methylpropylphosphonic acid (691.0 mg, 2.41 mmol) in 8 mL of DMF was cooled to −20° C. using a dry ice/methanol bath. To this solution was added thionyl chloride (0.21 mL, 2.88 mmol) and stirred at −5° C. for 25 minutes. Racemic 2-hydroxy-2-(3-(t-butoxycarbonylamino)phenyl)ethanoic acid methyl ester (683.4 mg, 2.43 mmol) was added as a solution in 2 mL of DMF and the reaction was allowed to warm to ambient temperature. After stirring for 4 days (total reaction time 87 hrs), the reaction had almost gone to completion (95%). To this reaction mixture 5 mL of saturated NaHCO3 was added. The solution was washed with ether (2×), acidified to pH 2 with concentrated HCl, and extracted with ethyl acetate (3×). The combined ethyl acetate extracts were dried over MgSO4, filtered, and concentrated in vacuo to give a mixture of product and starting material. Purification via SiO2 gel flash column chromatography (CH2Cl2, then methanol) provided 1.1966 g (90%) of 2-(3-(t-butoxycarbonylamino)phenyl)-2-((1-(benzyloxycarbonyl)amino-2-methylpropyl)(hydroxy)phosphinoyloxy)ethanoic acid methyl ester; as a mixture of diastereomers.

reactant | (R)-1-(benzyloxycarbonyl)amino-2-methylpropylphosphonic acid | 2.41 mmol, 691.0 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)P(O)(O)=O | C12H18NO5P
reactant | thionyl chloride | 2.88 mmol, 0.21 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Racemic 2-hydroxy-2-(3-(t-butoxycarbonylamino)phenyl)ethanoic acid methyl ester | 2.43 mmol, 683.4 mg | COC(C(C1=CC(=CC=C1)NC(=O)OC(C)(C)C)O)=O | C14H19NO5
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(3-(t-butoxycarbonylamino)phenyl)-2-((1-(benzyloxycarbonyl)amino-2-methylpropyl)(hydroxy)phosphinoyloxy)ethanoic acid methyl ester | 1.1966 g, 90% | COC(C(OP(=O)(O)C(C(C)C)NC(=O)OCC1=CC=CC=C1)C1=CC(=CC=C1)NC(=O)OC(C)(C)C)=O | C26H35N2O9P
